US08748436B2
(g) [2,6-Dimethyl-4-(5-methylsulfanyl-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl)-phenoxy]-acetic acid tert-butyl ester
To a solution of 2.00 g of 2,6-dimethyl-4-(5-methylsulfanyl-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl)-phenol in 20 ml of N,N-dimethylformamide was added 3.20 g of potassium carbonate, followed by 0.93 ml of tert-butyl bromoacetate. The mixture was reacted for 1 h at 60° C., then allowed to cool and poured onto water. The resulting precipitate was collected by filtration with suction and dried in vacuo. 2.45 g of the title compound were obtained.

reactant | 2,6-dimethyl-4-(5-methylsulfanyl-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl)-phenol | 2.00 g | CC1=C(C(=CC(=C1)C=1OC=2N=C(N=C(C2N1)OCCC)SC)C)O | C17H19N3O3S
reactant | potassium carbonate | 3.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 0.93 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | [2,6-Dimethyl-4-(5-methylsulfanyl-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl)-phenoxy]-acetic acid tert-butyl ester | 2.45 g | C(C)(C)(C)OC(COC1=C(C=C(C=C1C)C=1OC=2N=C(N=C(C2N1)OCCC)SC)C)=O | C23H29N3O5S
